US07087750B2
1-[(2,5-Dichlorophenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared according from 4-(4-boc-piperazinyl)-indole and 2,5-dichlorophenylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.09 (br, 1 H), 8.25 (d, J=3 Hz, 1 H), 7.91–7.81 (m, 2 H), 7.72 (d, J=8 Hz, 1 H), 7.36 (d, J 8 Hz, 1 H), 7.23 (t, J=8 Hz, 1 H), 6.98 (d, J 3 Hz, 1 H), 6.82 (d, J=8 Hz, H), 3.26(m,8 H).

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 2,5-dichlorophenylsulfonyl chloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 1-[(2,5-Dichlorophenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C18H17Cl2N3O2S.ClH/c19-13-4-5-15(20)18(12-13)26(24,25)23-9-6-14-16(2-1-3-17(14)23)22-10-7-21-8-11-22;/h1-6,9,12,21H,7-8,10-11H2;1H
